US07521461B2
d) N-benzyl-2-bromo-N-hexylacetamide
N-hexylbenzylamine (4.2 g, 21.953 mmol) and triethylamine (3.98 ml, 28.539 mmol) were mixed in DCM (20 ml) and cooled in an ice-bath. Bromacetyl chloride (3.455 mg, 21.953 mmol) in DCM (5 ml) was added. The mixture was stirred over weekend and the temperature was allowed going up to room temperature. The mixture was washed with water mixed with 1% hydrochloric acid (water phase pH˜4-5) and brine, dried with magnesium sulphate, and evaporated. Column chromatography of the residue on silica gel using ethyl acetate/heptane (10:90, then 20:80) as eluant gave 4.0 g desired product, yield 58%.

reactant | N-hexylbenzylamine | 21.953 mmol, 4.2 g | C(CCCCC)NCC1=CC=CC=C1 | C13H21N
reactant | triethylamine | 28.539 mmol, 3.98 ml | C(C)N(CC)CC | C6H15N
reactant | Bromacetyl chloride | 21.953 mmol, 3.455 mg | BrCC(=O)Cl | C2H2BrClO
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-benzyl-2-bromo-N-hexylacetamide | 4.0 g, yield 58% | C(C1=CC=CC=C1)N(C(CBr)=O)CCCCCC | C15H22BrNO
